US06335445B1
6.2) 4-acetoxy-3,5-dimethoxy-N-[2-(4-aminophenyl)ethyl]-benzamide
The experimental protocol used is the same as that described for intermediate 2.2, with 4-acetoxy-3,5-dimethoxy-N-[2-(4-nitrophenyl)ethyl]-benzamide replacing the 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[(4-nitrophenyl)methyl]-benzamide. A colourless oil is obtained with a quantitative yield. The product is used directly in the following stage without additional purification.

reactant | 4-acetoxy-3,5-dimethoxy-N-[2-(4-nitrophenyl)ethyl]-benzamide | C(C)(=O)OC1=C(C=C(C(=O)NCCC2=CC=C(C=C2)[N+](=O)[O-])C=C1OC)OC | C19H20N2O7
reactant | 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[(4-nitrophenyl)methyl]-benzamide | CC(C)(C)C=1C=C(C(=O)NCC2=CC=C(C=C2)[N+](=O)[O-])C=C(C1O)C(C)(C)C | C22H28N2O4
product | 4-acetoxy-3,5-dimethoxy-N-[2-(4-aminophenyl)ethyl]-benzamide | quantitative yield | C(C)(=O)OC1=C(C=C(C(=O)NCCC2=CC=C(C=C2)N)C=C1OC)OC | C19H22N2O5
